US06340759B1
(168-1) 2-(1,3-Dioxan-2-yl)thiazole
2-Thiazolecarboxaldehyde (1 g) was dissolved in toluene (50 ml), followed by the addition of trimethylene glycol (3.36 g) and p-toluenesulfonic acid (17 mg). The resulting mixture was heated under reflux with a Dean-Stark apparatus for 4 hr. After cooling as it was, the reaction mixture was washed sequentially with an aqueous solution of saturated sodium bicarbonate and brine, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a brown solid (1.104 g, yield; 73%).

reactant | 2-Thiazolecarboxaldehyde | 1 g | S1C(=NC=C1)C=O | C4H3NOS
reactant | trimethylene glycol | 3.36 g | C(CCO)O | C3H8O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 17 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(1,3-Dioxan-2-yl)thiazole | 1.104 g, yield; 73% | O1C(OCCC1)C=1SC=CN1 | C7H9NO2S
